US04125729
Methyl α-(5,6,7,8-tetrahydro-2-naphthyloxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 3.70 g of 5,6,7,8-tetrahydro-2-naphthol, 1.19 g of sodium methoxide and 50 mg of potassium iodide in 40 ml of methanol is added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 40 ml of benzene. The mixture is maintained at reflux overnight and then poured into 100 ml of water. The mixture is then extracted with 2 × 75 ml of ether. The combined extracts are washed with 2 × 50 ml of 5% NaOH, 50 ml of water, 50 ml of saturated brine and dried (MgSO4). Evaporation of the solvent yields a yellow oil. Chromatography on 100 g of silica gel yields a yellow oil.

reactant | 5,6,7,8-tetrahydro-2-naphthol | 3.70 g | C1=C(C=CC=2CCCCC12)O | C10H12O
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | Methyl α-(5,6,7,8-tetrahydro-2-naphthyloxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | C1=C(C=CC=2CCCCC12)OC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C25H23ClO4
